US08497376B2
e) 6-(2,2,6,6-Tetramethyl-1,1-dioxo-hexahydro-1λ6-thiopyran-4-yl)-pyridin-3-ylamine
A solution of 5-nitro-2-(2,2,6,6-tetramethyl-1,1-dioxo-1,2,3,6-tetrahydro-1λ6-thiopyran-4-yl)-pyridine (322 mg, 1.04 mmol, as prepared in the previous step) in MeOH (10 mL) was hydrogenated with 5% Pd/C and 1 atm H2 at RT for 17 h. The mixture was filtered through Celite, and the filter cake was washed with MeOH. The solvents were evaporated in vacuo. The residue was purified on a 25-g Sepra Si 50 SPE column (Isco system: Flow rate=20 mL/min; Eluent=10% EtOAc-hexane for 0-3 min, then 10-50% EtOAc-hexane for 5-30 min, then 50-65% EtOAc-hexane over 40 min, then 65-100% EtOAc-hexane over 40 min) to afford the title compound (187 mg, 64%) as an off-white solid. Mass spectrum (ESI, m/z): Calcd. for C14H22N2O2S, 283.1 (M+H), found 283.1.

reactant | 5-nitro-2-(2,2,6,6-tetramethyl-1,1-dioxo-1,2,3,6-tetrahydro-1λ6-thiopyran-4-yl)-pyridine | [N+](=O)([O-])C=1C=CC(=NC1)C=1CC(S(C(C1)(C)C)(=O)=O)(C)C | C14H18N2O4S
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 6-(2,2,6,6-Tetramethyl-1,1-dioxo-hexahydro-1λ6-thiopyran-4-yl)-pyridin-3-ylamine | 187 mg, 64% | CC1(S(C(CC(C1)C1=CC=C(C=N1)N)(C)C)(=O)=O)C | C14H22N2O2S
